US05439917
Preparation of 3-cyanomethyl-5-fluoro-2-methyl-7-((2,4-difluorophenacyl)phenacyl)pyrrolo[2,3-b]pyridine hydrochloride
The title compound was prepared from 3-(cyanomethyl)-5-fluoro-2-methylpyrrolo[2,3-b]pyridine (10 mg, 0.053 mmol) and 2,4-difluorophenacyl chloride (128 mg, 0.67 mmol) in acetonitrile (0.2 ml) in the same fashion as described in example 71; yield 16 mg (80%).

reactant | 3-(cyanomethyl)-5-fluoro-2-methylpyrrolo[2,3-b]pyridine | 0.053 mmol, 10 mg | C(#N)CC1=C(NC2=NC=C(C=C21)F)C | C10H8FN3
reactant | 2,4-difluorophenacyl chloride | 0.67 mmol, 128 mg | FC1=C(C(CCl)=O)C=CC(=C1)F | C8H5ClF2O
solvent | acetonitrile | 0.2 ml | C(C)#N | C2H3N
product | 3-cyanomethyl-5-fluoro-2-methyl-7-((2,4-difluorophenacyl)phenacyl)pyrrolo[2,3-b]pyridine hydrochloride | Cl.C(#N)CC1=C(N=C2N(C=C(C=C21)F)C(C(=O)C2=CC=CC=C2)CC(=O)C2=C(C=C(C=C2)F)F)C | InChI=1S/C26H18F3N3O2.ClH/c1-15-19(9-10-30)21-11-18(28)14-32(26(21)31-15)23(25(34)16-5-3-2-4-6-16)13-24(33)20-8-7-17(27)12-22(20)29;/h2-8,11-12,14,23H,9,13H2,1H3;1H
